US04254260
To a mixture of 2-oxo-2,3-dihydrothiazol-4-ylacetic acid (0.4 g.) and N-hydroxysuccinimide (0.3 g.) in tetrahydrofuran (15 ml.) was added N,N'-dicyclohexylcarbodiimide (0.52 g.) with stirring at room temperature, and the mixture was further stirred for 2 hours at the same temperature. Thus obtained solution was added to a solution of 3-carbamoyloxymethyl-7-amino-3-cephem-4-carboxylic acid (0.816 g.) and trimethylsilylacetamide (0.27 g.) in ethyl acetate (30 ml.) at room temperature, and the mixture was stirred for 16 hours at the same temperature. After the reaction, the reaction mixture was cooled to at -20° C., and then water (20 ml.) was added thereto. After stirring the mixture sufficiently, the mixture was filtered, and then the ethyl acetate layer was separated therefrom. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, treated with activated carbon, and then the solvent was distilled off under reduced pressure. The residue was pulverized in diethyl ether, collected by filtration and then dried to give 3-carbamoyloxymethyl-7-(2-oxo-2,3-dihydrothiazol-4-yl)acetamido-3-cephem-4-carboxylic acid (60 mg.).

reactant | 2-oxo-2,3-dihydrothiazol-4-ylacetic acid | 0.4 g | O=C1SC=C(N1)CC(=O)O | C5H5NO3S
reactant | N-hydroxysuccinimide | 0.3 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 0.52 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-carbamoyloxymethyl-7-amino-3-cephem-4-carboxylic acid | 0.816 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C9H11N3O5S
reactant | trimethylsilylacetamide | 0.27 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 3-carbamoyloxymethyl-7-(2-oxo-2,3-dihydrothiazol-4-yl)acetamido-3-cephem-4-carboxylic acid | 60 mg | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2NC(SC2)=O)=O)=O | C14H14N4O7S2
